US08686022B2
1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
1.13 g tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate are dissolved in 20 ml of a 5 M solution of HCl in isopropanol and stirred for 12 hours at ambient temperature. Then the mixture is adjusted to pH 9 with saturated aqueous sodium hydrogen carbonate solution and extracted twice with ethyl acetate. The combined organic phases are dried on magnesium sulphate and the solvent is eliminated in vacuo.

reactant | tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperazine-1-carboxylate | 1.13 g | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C32H45N5O6S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCNCC1)C)OC)NS(=O)(=O)C | C27H37N5O4S
